US06187582B1
At room temperature, a solution of 4.67 g (0.03 mol) of racemic 1-(4-chloro-phenyl)ethylamine in 40 ml of methyl tert-butyl ether is admixed successively with stirring with 5.5 g (0.045 mol) of ethyl chloroacetate and 0.4 g of Novozym 435® (=immobilized lipase from Candida antarctica; 7300 U/g). Stirring is continued at room temperature and the progress of the reaction is monitored by gas chromatographic sample analysis. After 1 hour, a conversion of 51% is reached. At this stage, the reaction is terminated by filtering off the enzyme. In the filtrate that remains, the (S)-enantiomer of 1-(4-chloro-phenyl)-ethylamine has an ee value of 89.1%, while the (R)-enantiomer of N-[1-(4-chloro-phenyl)-ethyl]chloroacetamide is obtained with an ee value of 95.5%.

reactant | racemic 1-(4-chloro-phenyl)ethylamine | 0.03 mol, 4.67 g | ClC1=CC=C(C=C1)C(C)N | C8H10ClN
reactant | ethyl chloroacetate | 0.045 mol, 5.5 g | ClCC(=O)OCC | C4H7ClO2
solvent | methyl tert-butyl ether | 40 ml | C(C)(C)(C)OC | C5H12O
product | N-[1-(4-chloro-phenyl)-ethyl]chloroacetamide | ClC1=CC=C(C=C1)C(C)NC(CCl)=O | C10H11Cl2NO
